US05378690
3.5 g (40 mmole) of morpholine were added to a mixture of 3.6 g (20 mmole) of ethyl 2-bromopropionate and 50 ml of dry benzene, and then the mixture was heated under reflux for 7 hours. At the end of this time, the reaction mixture was filtered, the filtrate was concentrated by evaporation under reduced pressure, and the residue was dissolved in chloroform. The resulting solution was washed with water, dried, and concentrated by evaporation under reduced pressure, to give 3.19 g of ethyl 2-morpholinopropionate. 10 ml of methanol and 10 ml of a concentrated aqueous solution of ammonium hydroxide were then added to 3.1 g (16.6 mmole) of this ethyl 2-morpholinopropionate, and the resulting mixture was heated under reflux for 28 hours. At the end of this time, the reaction mixture was concentrated by evaporation under reduced pressure, and the residue was dried by heating it under reduced pressure, to give 2-morpholinopropionamide as a precipitate.

reactant | morpholine | 40 mmole, 3.5 g | N1CCOCC1 | C4H9NO
reactant | ethyl 2-bromopropionate | 20 mmole, 3.6 g | BrC(C(=O)OCC)C | C5H9BrO2
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | ethyl 2-morpholinopropionate | 3.19 g | O1CCN(CC1)C(C(=O)OCC)C | C9H17NO3
